US04518607
A mixture of 1.25 g of 1-[2-hydroxy-4-(4-chlorophenyl)-n-butyl]imidazole and 0.26 g of sodium hydride (50% dispersion in mineral oil) in 20 ml of tetrahydrofuran was stirred under nitrogen at room temperature for one hour, and at 60° C. for one hour. The mixture was then cooled to 0° C. and treated dropwise with stirring with 4-acetylaminobenzyl chloride in 10 ml tetrahydrofuran, keeping the temperature below 10° C. After stirring for one hour, the mixture was heated to 60° C. for 2 hours and poured into water. The product was extracted with ethyl acetate and the extracts dried (MgSO4) and evaporated. The residue was chromatographed on silica gel eluting with 2% water in ethyl acetate to give 1-[4-(4-chlorophenyl)-2-(4-acetylaminobenzyloxy)-n-butyl]imidazole.

reactant | 1-[2-hydroxy-4-(4-chlorophenyl)-n-butyl]imidazole | 1.25 g | OC(CN1C=NC=C1)CCC1=CC=C(C=C1)Cl | C13H15ClN2O
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 4-acetylaminobenzyl chloride | C(C)(=O)NC1=CC=C(CCl)C=C1 | C9H10ClNO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[4-(4-chlorophenyl)-2-(4-acetylaminobenzyloxy)-n-butyl]imidazole | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)OCC1=CC=C(C=C1)NC(C)=O | C22H24ClN3O2
